* /home/mao/mykb75/keyboard.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 2018年01月17日 星期三 20时07分40秒

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  Net-_C1-Pad1_ GND Net-_C2-Pad1_ GND ASX3F		
R4  VCC /~RES~ 10k		
R3  Net-_IC1-Pad33_ GND 10k		
C3  Net-_C3-Pad1_ GND 1u		
R2  Net-_IC1-Pad4_ /usb_type_c/D+ 22		
R1  Net-_IC1-Pad3_ /usb_type_c/D- 22		
C7  VCC GND 100n		
C6  VCC GND 100n		
C5  VCC GND 100n		
C4  VCC GND 100n		
C2  Net-_C2-Pad1_ GND 22p		
C1  Net-_C1-Pad1_ GND 22p		
IC1  /col3 VCC Net-_IC1-Pad3_ Net-_IC1-Pad4_ GND Net-_C3-Pad1_ VCC ? /SCK /MOSI /MISO /col9 /~RES~ VCC GND Net-_C1-Pad1_ Net-_C2-Pad1_ ? /row5 /data /row6 /clk GND VCC /col7 /col13 /col12 /col11 /col10 /col6 /col5 /col4 Net-_IC1-Pad33_ VCC GND /col2 /col1 /row4 /row3 /row2 /row1 ? GND VCC ATMEGA32U4		
S0  GND ? /~RES~ ? DTSM-6		
P1  /MISO CONN_1		
P3  /SCK CONN_1		
P5  /~RES~ CONN_1		
P2  VCC CONN_1		
P4  /MOSI CONN_1		
P6  GND CONN_1		
C8  VCC GND 1u		
P18  /Leds/lrow1 CONN_1		
P19  /Leds/lrow2 CONN_1		
P20  /Leds/lrow3 CONN_1		
P21  /Leds/lrow4 CONN_1		
P22  /Leds/lrow5 CONN_1		
P23  /Leds/lcol1 CONN_1		
P24  /Leds/lcol2 CONN_1		
P25  /Leds/lcol3 CONN_1		
P26  /Leds/lcol4 CONN_1		
P27  /Leds/lcol5 CONN_1		
P28  /Leds/lcol6 CONN_1		
P29  /Leds/lcol7 CONN_1		
P30  /Leds/lcol8 CONN_1		
P31  /Leds/lcol9 CONN_1		
P32  /Leds/lcol10 CONN_1		
P33  /Leds/lcol11 CONN_1		
P34  /Leds/lcol12 CONN_1		
P35  /Leds/lcol13 CONN_1		
P36  /Leds/lcol14 CONN_1		
P12  GND CONN_1		
P10  /row3 CONN_1		
P9  /row4 CONN_1		
P8  /col1 CONN_1		
P7  /col2 CONN_1		
P11  VCC CONN_1		
TP_J1  /data /rst /btn1 /btn2 /btn3 /clk GND VCC CONN_8		
R_TP3  /rst GND 100k		
C_TP1  VCC /rst 2.2uf		
R_TP1  VCC /clk 4.7k		
R_TP2  /data VCC 4.7k		
TP_J2  /btn3 /btn2 /btn1 GND CONN_4		
P37  /Leds/lrow6 CONN_1		
* Sheet Name: /Matrix/
S01  /row2 Net-_D01-Pad2_ MX1A		
S06  /row2 Net-_D06-Pad2_ MX1A		
S11  /row2 Net-_D11-Pad2_ MX1A		
S16  /row2 Net-_D16-Pad2_ MX1A		
S21  /row2 Net-_D21-Pad2_ MX1A		
S26  /row2 Net-_D26-Pad2_ MX1A		
S36  /row2 Net-_D36-Pad2_ MX1A		
S46  /row2 Net-_D46-Pad2_ MX1A		
S51  /row2 Net-_D51-Pad2_ MX1A		
S56  /row2 Net-_D56-Pad2_ MX1A		
S61  /row2 Net-_D61-Pad2_ MX1A		
S66  /row2 Net-_D66-Pad2_ MX1A		
S02  /row3 Net-_D02-Pad2_ MX1A		
S07  /row3 Net-_D07-Pad2_ MX1A		
S12  /row3 Net-_D12-Pad2_ MX1A		
S17  /row3 Net-_D17-Pad2_ MX1A		
S22  /row3 Net-_D22-Pad2_ MX1A		
S27  /row3 Net-_D27-Pad2_ MX1A		
S32  /row3 Net-_D32-Pad2_ MX1A		
S37  /row3 Net-_D37-Pad2_ MX1A		
S42  /row3 Net-_D42-Pad2_ MX1A		
S47  /row3 Net-_D47-Pad2_ MX1A		
S52  /row3 Net-_D52-Pad2_ MX1A		
S57  /row3 Net-_D57-Pad2_ MX1A		
S62  /row3 Net-_D62-Pad2_ MX1A		
S67  /row3 Net-_D67-Pad2_ MX1A		
S03  /row4 Net-_D03-Pad2_ MX1A		
S08  /row4 Net-_D08-Pad2_ MX1A		
S13  /row4 Net-_D13-Pad2_ MX1A		
S18  /row4 Net-_D18-Pad2_ MX1A		
S23  /row4 Net-_D23-Pad2_ MX1A		
S28  /row4 Net-_D28-Pad2_ MX1A		
S33  /row4 Net-_D33-Pad2_ MX1A		
S38  /row4 Net-_D38-Pad2_ MX1A		
S43  /row4 Net-_D43-Pad2_ MX1A		
S48  /row4 Net-_D48-Pad2_ MX1A		
S53  /row4 Net-_D53-Pad2_ MX1A		
S58  /row4 Net-_D58-Pad2_ MX1A		
S09  /row5 Net-_D09-Pad2_ MX1A		
S14  /row5 Net-_D14-Pad2_ MX1A		
S24  /row5 Net-_D24-Pad2_ MX1A		
S29  /row5 Net-_D29-Pad2_ MX1A		
S34  /row5 Net-_D34-Pad2_ MX1A		
S39  /row5 Net-_D39-Pad2_ MX1A		
S44  /row5 Net-_D44-Pad2_ MX1A		
S49  /row5 Net-_D49-Pad2_ MX1A		
S54  /row5 Net-_D54-Pad2_ MX1A		
S59  /row5 Net-_D59-Pad2_ MX1A		
S69  /row5 Net-_D69-Pad2_ MX1A		
S05  /row6 Net-_D05-Pad2_ MX1A		
S10  /row6 Net-_D10-Pad2_ MX1A		
S15  /row6 Net-_D15-Pad2_ MX1A		
S55  /row6 Net-_D55-Pad2_ MX1A		
S60  /row6 Net-_D60-Pad2_ MX1A		
S65  /row6 Net-_D65-Pad2_ MX1A		
S70  /row6 Net-_D70-Pad2_ MX1A		
S641  /row5 Net-_D64-Pad2_ MX1A		
S0512  /row6 Net-_D05-Pad2_ MX1A		
S102  /row6 Net-_D10-Pad2_ MX1A		
S101  /row6 Net-_D10-Pad2_ MX1A		
S552  /row6 Net-_D55-Pad2_ MX1A		
S602  /row6 Net-_D60-Pad2_ MX1A		
S151  /row6 Net-_D15-Pad2_ MX1A		
S6512  /row6 Net-_D65-Pad2_ MX1A		
S7012  /row6 Net-_D70-Pad2_ MX1A		
S301  /row6 Net-_D30-Pad2_ MX1A		
S302  /row6 Net-_D30-Pad2_ MX1A		
S041  /row5 Net-_D04-Pad2_ MX1A		
S64  Net-_D64-Pad2_ /row5 MX1A		
S04  /row5 Net-_D04-Pad2_ MX1A		
S68  /row4 Net-_D68-Pad2_ MX1A		
S30  /row6 Net-_D30-Pad2_ MX1A		
S031  Net-_D03-Pad2_ /row4 MX1A		
DC1  VCC Net-_DC1-Pad2_ LED		
DC2  VCC Net-_DC1-Pad2_ LED		
R-CAP1  Net-_DC1-Pad2_ /MOSI 300		
S41  /row2 Net-_D41-Pad2_ MX1A		
S31  /row2 Net-_D31-Pad2_ MX1A		
S691  Net-_D69-Pad2_ /row5 MX1A		
S692  /row5 Net-_D69-Pad2_ MX1A		
D06  /col2 Net-_D06-Pad2_ 1N4148		
D11  /col3 Net-_D11-Pad2_ 1N4148		
D02  /col1 Net-_D02-Pad2_ 1N4148		
D04  /col1 Net-_D04-Pad2_ 1N4148		
D07  /col2 Net-_D07-Pad2_ 1N4148		
D08  /col2 Net-_D08-Pad2_ 1N4148		
D12  /col3 Net-_D12-Pad2_ 1N4148		
D13  /col3 Net-_D13-Pad2_ 1N4148		
D09  /col2 Net-_D09-Pad2_ 1N4148		
D14  /col3 Net-_D14-Pad2_ 1N4148		
D26  /col6 Net-_D26-Pad2_ 1N4148		
D27  /col6 Net-_D27-Pad2_ 1N4148		
D28  /col6 Net-_D28-Pad2_ 1N4148		
D29  /col6 Net-_D29-Pad2_ 1N4148		
S19  /row5 Net-_D19-Pad2_ MX1A		
D16  /col4 Net-_D16-Pad2_ 1N4148		
D17  /col4 Net-_D17-Pad2_ 1N4148		
D18  /col4 Net-_D18-Pad2_ 1N4148		
D19  /col4 Net-_D19-Pad2_ 1N4148		
D21  /col5 Net-_D21-Pad2_ 1N4148		
D31  /col7 Net-_D31-Pad2_ 1N4148		
D01  /col1 Net-_D01-Pad2_ 1N4148		
D23  /col5 Net-_D23-Pad2_ 1N4148		
D33  /col7 Net-_D33-Pad2_ 1N4148		
D32  /col7 Net-_D32-Pad2_ 1N4148		
D36  /SCK Net-_D36-Pad2_ 1N4148		
D41  /col9 Net-_D41-Pad2_ 1N4148		
D37  /SCK Net-_D37-Pad2_ 1N4148		
D38  /SCK Net-_D38-Pad2_ 1N4148		
D22  /col5 Net-_D22-Pad2_ 1N4148		
D43  /col9 Net-_D43-Pad2_ 1N4148		
D42  /col9 Net-_D42-Pad2_ 1N4148		
D46  /col10 Net-_D46-Pad2_ 1N4148		
D47  /col10 Net-_D47-Pad2_ 1N4148		
D51  /col11 Net-_D51-Pad2_ 1N4148		
D52  /col11 Net-_D52-Pad2_ 1N4148		
D48  /col10 Net-_D48-Pad2_ 1N4148		
D44  /col9 Net-_D44-Pad2_ 1N4148		
D49  /col10 Net-_D49-Pad2_ 1N4148		
D54  /col11 Net-_D54-Pad2_ 1N4148		
D59  /col12 Net-_D59-Pad2_ 1N4148		
D64  /col13 Net-_D64-Pad2_ 1N4148		
D69  /MISO Net-_D69-Pad2_ 1N4148		
D70  /MISO Net-_D70-Pad2_ 1N4148		
D65  /col13 Net-_D65-Pad2_ 1N4148		
D60  /col12 Net-_D60-Pad2_ 1N4148		
D55  /col11 Net-_D55-Pad2_ 1N4148		
D68  /MISO Net-_D68-Pad2_ 1N4148		
D58  /col12 Net-_D58-Pad2_ 1N4148		
D53  /col11 Net-_D53-Pad2_ 1N4148		
D67  /MISO Net-_D67-Pad2_ 1N4148		
D62  /col13 Net-_D62-Pad2_ 1N4148		
D57  /col12 Net-_D57-Pad2_ 1N4148		
D66  /MISO Net-_D66-Pad2_ 1N4148		
D61  /col13 Net-_D61-Pad2_ 1N4148		
D56  /col12 Net-_D56-Pad2_ 1N4148		
D24  /col5 Net-_D24-Pad2_ 1N4148		
D34  /col7 Net-_D34-Pad2_ 1N4148		
D39  /SCK Net-_D39-Pad2_ 1N4148		
D05  /col1 Net-_D05-Pad2_ 1N4148		
D10  /col2 Net-_D10-Pad2_ 1N4148		
D15  /col3 Net-_D15-Pad2_ 1N4148		
D30  /col6 Net-_D30-Pad2_ 1N4148		
D03  /col1 Net-_D03-Pad2_ 1N4148		
DC3  VCC Net-_DC1-Pad2_ LED		
S601  /row6 Net-_D60-Pad2_ MX1A		
S661  /row2 Net-_D66-Pad2_ MX1A		
S50  /row6 Net-_D50-Pad2_ MX1A		
D50  /col10 Net-_D50-Pad2_ 1N4148		
S71  /row1 Net-_D71-Pad2_ MX1A		
D71  /col1 Net-_D71-Pad2_ 1N4148		
S72  /row1 Net-_D72-Pad2_ MX1A		
D72  /col2 Net-_D72-Pad2_ 1N4148		
S73  /row1 Net-_D73-Pad2_ MX1A		
D73  /col3 Net-_D73-Pad2_ 1N4148		
S74  /row1 Net-_D74-Pad2_ MX1A		
D74  /col4 Net-_D74-Pad2_ 1N4148		
S76  /row1 Net-_D76-Pad2_ MX1A		
D76  /col6 Net-_D76-Pad2_ 1N4148		
S75  /row1 Net-_D75-Pad2_ MX1A		
D75  /col5 Net-_D75-Pad2_ 1N4148		
S77  /row1 Net-_D77-Pad2_ MX1A		
D77  /col7 Net-_D77-Pad2_ 1N4148		
S78  /row1 Net-_D78-Pad2_ MX1A		
D78  /SCK Net-_D78-Pad2_ 1N4148		
S79  /row1 Net-_D79-Pad2_ MX1A		
D79  /col9 Net-_D79-Pad2_ 1N4148		
S80  /row1 Net-_D80-Pad2_ MX1A		
D80  /col10 Net-_D80-Pad2_ 1N4148		
S81  /row1 Net-_D81-Pad2_ MX1A		
D81  /col11 Net-_D81-Pad2_ 1N4148		
S82  /row1 Net-_D82-Pad2_ MX1A		
D82  /col12 Net-_D82-Pad2_ 1N4148		
S83  /row1 Net-_D83-Pad2_ MX1A		
D83  /col13 Net-_D83-Pad2_ 1N4148		
S84  /row1 Net-_D84-Pad2_ MX1A		
D84  /MISO Net-_D84-Pad2_ 1N4148		
* Sheet Name: /Leds/
DB21  /Leds/lcol5 /Leds/lrow1 LED		
DB26  /Leds/lcol6 /Leds/lrow1 LED		
DB31  /Leds/lcol7 /Leds/lrow1 LED		
DB36  /Leds/lcol8 /Leds/lrow1 LED		
DB06  /Leds/lcol2 /Leds/lrow1 LED		
DB11  /Leds/lcol3 /Leds/lrow1 LED		
DB16  /Leds/lcol4 /Leds/lrow1 LED		
DB61  /Leds/lcol13 /Leds/lrow1 LED		
DB66  /Leds/lcol14 /Leds/lrow1 LED		
DB41  /Leds/lcol9 /Leds/lrow1 LED		
DB46  /Leds/lcol10 /Leds/lrow1 LED		
DB51  /Leds/lcol11 /Leds/lrow1 LED		
DB56  /Leds/lcol12 /Leds/lrow1 LED		
DB22  /Leds/lcol5 /Leds/lrow2 LED		
DB27  /Leds/lcol6 /Leds/lrow2 LED		
DB32  /Leds/lcol7 /Leds/lrow2 LED		
DB37  /Leds/lcol8 /Leds/lrow2 LED		
DB02  /Leds/lcol1 /Leds/lrow2 LED		
DB07  /Leds/lcol2 /Leds/lrow2 LED		
DB17  /Leds/lcol4 /Leds/lrow2 LED		
DB62  /Leds/lcol13 /Leds/lrow2 LED		
DB67  /Leds/lcol14 /Leds/lrow2 LED		
DB42  /Leds/lcol9 /Leds/lrow2 LED		
DB47  /Leds/lcol10 /Leds/lrow2 LED		
DB52  /Leds/lcol11 /Leds/lrow2 LED		
DB57  /Leds/lcol12 /Leds/lrow2 LED		
DB23  /Leds/lcol5 /Leds/lrow3 LED		
DB28  /Leds/lcol6 /Leds/lrow3 LED		
DB33  /Leds/lcol7 /Leds/lrow3 LED		
DB38  /Leds/lcol8 /Leds/lrow3 LED		
DB68  /Leds/lcol14 /Leds/lrow3 LED		
DB43  /Leds/lcol9 /Leds/lrow3 LED		
DB48  /Leds/lcol10 /Leds/lrow3 LED		
DB53  /Leds/lcol11 /Leds/lrow3 LED		
DB58  /Leds/lcol12 /Leds/lrow3 LED		
DB24  /Leds/lcol5 /Leds/lrow4 LED		
DB29  /Leds/lcol6 /Leds/lrow4 LED		
DB34  /Leds/lcol7 /Leds/lrow4 LED		
DB39  /Leds/lcol8 /Leds/lrow4 LED		
DB04  /Leds/lcol1 /Leds/lrow4 LED		
DB09  /Leds/lcol2 /Leds/lrow4 LED		
DB14  /Leds/lcol3 /Leds/lrow4 LED		
DB19  /Leds/lcol4 /Leds/lrow4 LED		
DB44  /Leds/lcol9 /Leds/lrow4 LED		
DB49  /Leds/lcol10 /Leds/lrow4 LED		
DB54  /Leds/lcol11 /Leds/lrow4 LED		
DB59  /Leds/lcol12 /Leds/lrow4 LED		
DB05  /Leds/lcol1 /Leds/lrow5 LED		
DB10  /Leds/lcol2 /Leds/lrow5 LED		
DB15  /Leds/lcol3 /Leds/lrow5 LED		
DB50  /Leds/lcol10 /Leds/lrow5 LED		
DB55  /Leds/lcol11 /Leds/lrow5 LED		
DB30  /Leds/lcol6 /Leds/lrow5 LED		
DB551  /Leds/lcol11 /Leds/lrow5 LED		
DB301  /Leds/lcol6 /Leds/lrow5 LED		
DB302  /Leds/lcol6 /Leds/lrow5 LED		
DB051  /Leds/lcol1 /Leds/lrow5 LED		
DB101  /Leds/lcol2 /Leds/lrow5 LED		
DB102  /Leds/lcol2 /Leds/lrow5 LED		
DB151  /Leds/lcol3 /Leds/lrow5 LED		
DB69  /Leds/lcol14 /Leds/lrow4 LED		
DB041  /Leds/lcol1 /Leds/lrow4 LED		
DB661  /Leds/lcol14 /Leds/lrow1 LED		
DB71  /Leds/lcol1 /Leds/lrow6 LED		
DB72  /Leds/lcol2 /Leds/lrow6 LED		
DB73  /Leds/lcol3 /Leds/lrow6 LED		
DB74  /Leds/lcol4 /Leds/lrow6 LED		
DB75  /Leds/lcol5 /Leds/lrow6 LED		
DB76  /Leds/lcol6 /Leds/lrow6 LED		
DB77  /Leds/lcol7 /Leds/lrow6 LED		
DB78  /Leds/lcol8 /Leds/lrow6 LED		
DB79  /Leds/lcol9 /Leds/lrow6 LED		
DB80  /Leds/lcol10 /Leds/lrow6 LED		
DB81  /Leds/lcol11 /Leds/lrow6 LED		
DB82  /Leds/lcol12 /Leds/lrow6 LED		
DB83  /Leds/lcol13 /Leds/lrow6 LED		
DB84  /Leds/lcol14 /Leds/lrow6 LED		
* Sheet Name: /usb_type_c/
Rd1  Net-_J1-PadA5_ GND 5.1k		
Rd2  GND Net-_J1-PadB5_ 5.1k		
J1  GND VCC Net-_J1-PadA5_ /usb_type_c/D+ /usb_type_c/D- VCC GND GND VCC Net-_J1-PadB5_ /usb_type_c/D+ /usb_type_c/D- VCC GND GND TYPE_C_2		

.end
